US05482950
A mixture of 10 mg of (6-hydroxy-2-(4-hydroxycyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone, 0.5 mL of acetic anhydride, and 0.5 mL of pyridine is agitated for 18 hours at room temperature. Ice is added to the reaction mixture, and the system is agitated for 30 minutes, after which the organic layer is extracted with ethyl acetate, washed with water and a saturated aqueous solution of sodium hydrogencarbonate, and dried with anhydrous magnesium sulfate. The solvent is distilled off, and the crude product thus obtained is refined by TLC (developing solvent was chloroform:methanol=9:1), which gives 5 mg of [6-acetoxy-2-(4-acetoxycyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone.

reactant | (6-hydroxy-2-(4-hydroxycyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 10 mg | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCC(CC2)O)C1 | C28H33NO4S
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
product | [6-acetoxy-2-(4-acetoxycyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 5 mg | C(C)(=O)OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCC(CC2)OC(C)=O)C1 | C32H37NO6S
